US06479536B1
N-[4-[[3-(4-Fluorophenyl)-2-methyl-2-propenyl]oxy]-2,3,6-trimethylphenyl]formamide
By using N-(4-hydroxy-2,3,6-trimethylphenyl)formamide and 1-(3-bromo-2-methyl-1-propenyl)-4-fluorobenzene, the title compound was synthesized according to Reference Example 17a. Yield: 52%. Melting point: 164-165° C. (Ethyl acetate-hexane).

reactant | N-(4-hydroxy-2,3,6-trimethylphenyl)formamide | OC1=C(C(=C(C(=C1)C)NC=O)C)C | C10H13NO2
reactant | 1-(3-bromo-2-methyl-1-propenyl)-4-fluorobenzene | BrCC(=CC1=CC=C(C=C1)F)C | C10H10BrF
solvent | Ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | N-[4-[[3-(4-Fluorophenyl)-2-methyl-2-propenyl]oxy]-2,3,6-trimethylphenyl]formamide | Yield: 52% | FC1=CC=C(C=C1)C=C(COC1=C(C(=C(C(=C1)C)NC=O)C)C)C | C20H22FNO2
